US07338973B2
11-(2-Dimethylamino-ethyl)-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol
A mixture of [2-(8-methoxy-6H-5-thia-11-aza-benzo[a]fluoren-11-yl)-ethyl]-dimethyl-amine (800 mg, 2.39 mmol) and Pyridine HCl (3.01 g, 23.7 mmol, 10 eq.) was heated to 210° C. for 30 minutes. The reaction mixture was then partitioned between EtOAc and saturated NaHCO3 aqueous solution. The aqueous layer was extracted three times with EtOAc. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a crude material. The crude material was purified by silica gel (EtOAc to CH2Cl2:MeOH 5:1) to yield the title compound as a brown solid.

reactant | [2-(8-methoxy-6H-5-thia-11-aza-benzo[a]fluoren-11-yl)-ethyl]-dimethyl-amine | 2.39 mmol, 800 mg | COC=1C=C2C=3CSC4=C(C3N(C2=CC1)CCN(C)C)C=CC=C4 | C20H22N2OS
reactant | Pyridine HCl | 23.7 mmol, 3.01 g, 10 eq. | Cl.N1=CC=CC=C1
product | 11-(2-Dimethylamino-ethyl)-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | CN(CCN1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)O)C | C19H20N2OS
